US07199239B2
Intermediate 35: Ethyl [4-({butyryl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate
To a solution of ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate (0.07 g, 0.16 mmol) in anhydrous CH2Cl2 (2 mL) at 0° C. under nitrogen was added butyric acid (0.016 mL, 0.17 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride (33 mg, 0.17 mmol) was then added in portions followed by triethylamine (0.022 mL, 0.16 mmol). After stirring for 15 mins at 0° C. the reaction was allowed to attain room temperature and stirred for 18 h. The reaction mixture was diluted with CH2Cl2 (20 mL) and shaken with 1 M HCl (5 mL). The organic extract was separated by hydrophobic frit and the solvent removed in vacuo. Purification by Biotage™ chromatography (Silica, 12 g) eluting 9:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (40 mg).

reactant | ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 0.16 mmol, 0.07 g | CC1=C(OCC(=O)OCC)C=CC(=C1)CNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C25H24F3NO3
reactant | butyric acid | 0.17 mmol, 0.016 mL | C(CCC)(=O)O | C4H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodimide hydrochloride | 0.17 mmol, 33 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.16 mmol, 0.022 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 M, 5 mL | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [4-({butyryl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 40 mg | C(CCC)(=O)N(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C29H30F3NO4
